US04649160
The 2-(4-chlorophenyl)ethoxyacetic acid obtained according to the preceding paragraph was reduced with lithium hydride in a manner analogous to that described in Example 1(b) to give 1.6 g (43%) of 2-[2-(4-chlorophenyl)-ethoxy]ethanol in the form of an oil which was homogeneous according to chromatography.

reactant | 2-(4-chlorophenyl)ethoxyacetic acid | ClC1=CC=C(C=C1)CCOCC(=O)O | C10H11ClO3
reactant | lithium hydride | [H-].[Li+]
product | 2-[2-(4-chlorophenyl)-ethoxy]ethanol | 1.6 g, 43% | ClC1=CC=C(C=C1)CCOCCO | C10H13ClO2
